US08633173B2
To a well stirred suspension of thiomorpholine 1,1-dioxide (0.36 g, 2.7 mmol) and potassium carbonate (0.37 g, 2.7 mmol) in acetone (5 mL) was added 1-bromo-4-chloromethyl-benzene (0.50 g, 2.4 mmol). The mixture was stirred for 48 hours at room temperature. The mixture was filtered and the volatiles were evaporated. The residue was suspended in ether (100 mL), filtered and evaporated to a solid. The material was purified via chromatography utilizing an ISCO automated purification apparatus (24 g silica gel column 10%→100% ethyl acetate in hexane). 4-(4-Bromo-benzyl)-thiomorpholine 1,1-dioxide was isolated as a white solid (0.72 g, 97%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.47 (d, J=7.6 Hz, 2H), 7.19 (d, J=7.7 Hz, 2H), 3.60 (s, 2H), 3.08-2.94 (m, 8H). MS=304, 306 (MH)+.

reactant | thiomorpholine 1,1-dioxide | 2.7 mmol, 0.36 g | N1CCS(CC1)(=O)=O | C4H9NO2S
reactant | potassium carbonate | 2.7 mmol, 0.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chloromethyl-benzene | 2.4 mmol, 0.50 g | BrC1=CC=C(C=C1)CCl | C7H6BrCl
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | 4-(4-Bromo-benzyl)-thiomorpholine 1,1-dioxide | BrC1=CC=C(CN2CCS(CC2)(=O)=O)C=C1 | C11H14BrNO2S
